US05023334
Preparation of 1,1,-dimethylethyl (α-4-pyridinylbenzylidene)carbazate, Compound 81
To 6.61 gm (0.05 mole) of t-butylcarbazate dissolved in 100 ml of warm water is added 9.16 gm (0.05 mole) of 4-benzoylpyridine in 30 ml of ethanol. The mixture is refluxed 7 hr. Cooling several weeks yields 1.77 gm (12%) of the title compound having a melting point of 134.5° C.

reactant | t-butylcarbazate | 0.05 mole, 6.61 gm | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | 4-benzoylpyridine | 0.05 mole, 9.16 gm | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
solvent | water | 100 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,1,-dimethylethyl (α-4-pyridinylbenzylidene)carbazate | 1.77 gm, 12% | N1=CC=C(C=C1)C(C1=CC=CC=C1)=NNC(=O)OC(C)(C)C | C17H19N3O2
